US06392104B1
An autoclave was charged, 10 mmole of 1-acetyloxy-3-nitroadamantane obtained by the method of Example 14, 5% Pd-C (10 mole % of Pd relative to a substrate), 1 ml of dilute hydrochloric acid and 10 ml of methanol. The mixture was stirred for 2 hours at 80° C. in an atmosphere of hydrogen at 30 atm. As a result, the conversion of 1-acetyloxy-3-nitroadamantane was 90%, and 1-acetyloxy-3-aminoadamantane (yield 70%) was formed.

reactant | hydrogen | [H][H] | H2
reactant | 1-acetyloxy-3-nitroadamantane | C(C)(=O)OC12CC3(CC(CC(C1)C3)C2)[N+](=O)[O-] | C12H17NO4
product | 1-acetyloxy-3-aminoadamantane | yield 70% | C(C)(=O)OC12CC3(CC(CC(C1)C3)C2)N | C12H19NO2
